US06200981B1
i) 3-Methylbenzoic acid, [1,1-dimethylethyl] ester
To a solution of tert-butanol (12.2 ml) in tetrahydrofuran (300 ml) at 0° C. was added n-butyllithium (52 ml) dropwise over 10 minutes. m-Toluoyl chloride (20 g) was added and the mixture heated at reflux for 1 hours. The mixture was partitioned between ethyl acetate and water and the organic phase dried (MgSO4) and evaporated. Purified by chromatography eluting with 20% dichloromethane in isohexane. Yield 14.78 g. Used directly in the next step.

reactant | tert-butanol | 12.2 ml | C(C)(C)(C)O | C4H10O
reactant | n-butyllithium | 52 ml | C(CCC)[Li]
reactant | m-Toluoyl chloride | 20 g | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-Methylbenzoic acid, [1,1-dimethylethyl] ester | CC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C12H16O2
